US05872140
a) 4-Ethylhex-2-yn-4-ol
A solution of methyl 2-butynoate (1.5 g) in ether (50 ml) was cooled to 0°, treated with ethyl magnesium bromide (21 ml of a 3M solution in ether) and stirred at room temperature for 4 hours. The mixture was then cooled to 0° and treated with saturated ammonium chloride solution, whereafter the product was extracted into ether and the title compound (1.2 g) was isolated by chromatography. IR (CCl4) νmax 2200 (C≡C), 3450 cm-1 (OH); NMR (CCl4) δ 1.83 (s, H3C--C≡), 2.3 (s), 1.36-1.6 (m, CH2CH3), 0.93 (t, CH3CH2).

reactant | methyl 2-butynoate | 1.5 g | C(C#CC)(=O)OC | C5H6O2
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ether | 50 ml | CCOCC | C4H10O
product | 4-Ethylhex-2-yn-4-ol | 1.2 g | C(C)C(C#CC)(CC)O | C8H14O
